US08557983B2
Resin Labeling with 6-Carboxyfluorescein-NHS (6-FAM-NHS)
The resin was treated with 2 equivalents 6-FAM-NHS in 1% DIEA/N,N-dimethylformamide and stirred or shaken at ambient temperature overnight. When complete, the resin was drained, washed thrice with N,N-dimethylformamide, thrice with (1×DCM and 1× methanol) and dried to provide an orange resin that was negative by ninhydrin test.

reactant | 6-FAM | 2 equivalents | C1=CC2=C(C=C1C(=O)O)C3(C4=C(C=C(C=C4)O)OC5=C3C=CC(=C5)O)OC2=O | C21H12O7
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | DIEA N,N-dimethylformamide | CCN(C(C)C)C(C)C.CN(C=O)C
product | 6-Carboxyfluorescein-NHS | C1CC(=O)N(C1=O)OC(=O)C2=CC3=C(C=C2)C(=O)OC34C5=C(C=C(C=C5)O)OC6=C4C=CC(=C6)O | C25H15NO9
